US07714163B2
2-[4-(4-Chlorobenzoyl)phenoxy]-2-methylpropanoic Acid Choline Salt
A mixture of 100 g (0.43 mol) of (4-chlorophenyl)(4-hydroxyphenyl)-methanone and 148 g (0.82 mol) of methyl 2-bromo-2-methylpropanoate is prepared in a 1 l reactor maintained under a nitrogen atmosphere. The mixture is heated to 145° C., with thorough stirring, and 69 g (0.5 mol) of potassium carbonate are added. The reaction medium is maintained at 145° C. for 3 hours, with thorough stirring, during which time the water formed by the reaction is collected in the distillate. The pressure in the reactor is then gradually reduced in order to remove the excess brominated reactant by distillation. The mixture is then cooled to about 100° C. and 300 ml of n-propanol are added. The resulting mixture is stirred for 10 mm at 90° C. and then filtered at this temperature to remove the insoluble mineral salts. The residual solid is rinsed with 100 ml of hot n-propanol, which is combined with the previous filtrates. The solution obtained is placed in the 1 l reactor under a nitrogen atmosphere and 121.5 g (0.45 mol) of a 45% aqueous solution of choline hydroxide are added. The reaction mixture is stirred for 3 hours under gentle reflux of the solvent and about 240 ml of solvent are then distilled, 130 ml of n-propanol being added to the reactor. The reactor contents are subsequently filtered on a clarifying filter and then cooled slowly to about 15° C. The resulting suspension is filtered on an aspirator and the isolated solid is rinsed with 100 ml of cold n-propanol and then dried in a vacuum oven.

reactant | (4-chlorophenyl)(4-hydroxyphenyl)-methanone | 0.43 mol, 100 g | ClC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)O | C13H9ClO2
reactant | methyl 2-bromo-2-methylpropanoate | 0.82 mol, 148 g | BrC(C(=O)OC)(C)C | C5H9BrO2
reactant | potassium carbonate | 0.5 mol, 69 g | C([O-])([O-])=O.[K+].[K+]
reactant | choline hydroxide | [OH-].OCC[N+](C)(C)C
solvent | water | O | H2O
product | 2-[4-(4-Chlorobenzoyl)phenoxy]-2-methylpropanoic Acid Choline Salt | OCC[N+](C)(C)C.ClC1=CC=C(C(=O)C2=CC=C(OC(C(=O)[O-])(C)C)C=C2)C=C1 | InChI=1S/C17H15ClO4.C5H14NO/c1-17(2,16(20)21)22-14-9-5-12(6-10-14)15(19)11-3-7-13(18)8-4-11;1-6(2,3)4-5-7/h3-10H,1-2H3,(H,20,21);7H,4-5H2,1-3H3/q;+1/p-1
